US07964726B2
N-(4,6-dimethylpyridin-2-yl)-8-(3-fluorophenyl)-5,6,8,9-tetrahydro-7H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine-7-carboxamide
To a tetrahydrofuran (1 mL) solution of phenyl chloroformate (157 mg), a tetrahydrofuran (1 mL) solution of 6-amino-2,4-lutidine (122 mg) and triethylamine (0.14 mL) were added under ice cooling, followed by stirring for one hour. The resulting mixture was added to a tetrahydrofuran (0.5 mL) solution of 8-(3-fluorophenyl)-5,6,7,8-tetrahydro-1H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine (prepared by conducting the operation having the same purpose as that in Example 8 Example 9 Example 10 using 3-fluorobenzoic acid in place of 3-methoxybenzoic acid) (60 mg) and triethylamine (31 μL), followed by stirring at 70° C. for 2 hours. To the reaction mixture, an aqueous saturated sodium hydrogen carbonate solution was added, followed by extraction with ethyl acetate. The organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution and saturated saline, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography (parallel separation purification system) and recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the titled compound having the following physical properties (38.7 mg).

reactant | phenyl chloroformate | 157 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 6-amino-2,4-lutidine | 122 mg | NC1=CC(=CC(=N1)C)C | C7H10N2
reactant | 8-(3-fluorophenyl)-5,6,7,8-tetrahydro-1H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine | FC=1C=C(C=CC1)C1NCCC2=C1N=C1NC=CC=C12 | C16H14FN3
reactant | 3-fluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 31 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-(4,6-dimethylpyridin-2-yl)-8-(3-fluorophenyl)-5,6,8,9-tetrahydro-7H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine-7-carboxamide | CC1=CC(=NC(=C1)C)NC(=O)N1C(C2=C(C=3C(=NC=CC3)N2)CC1)C1=CC(=CC=C1)F | C24H22FN5O
